US09145415B2
To 5-ethynyl-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine (S2, 62.4 mg) and tert-butyl(2-azidoethyl)carbamate (S18, 51.6 mg), tert-butanol (0.6 mL), water (0.6 mL), N,N-dimethylformamide (1.2 mL), sodium ascorbate (9.15 mg) and copper sulfate (3.69 mg) were added at room temperature, and the mixture was stirred at the same temperature for 12 hours. To the reaction mixture, ethyl acetate and water were added. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl (2-(4-(2-((3-fluorophenyl)amino)-4-(propylamino)pyrimidin-5-yl)-1H-1,2,3-triazol-1-yl)ethyl)carbamate (S19, 32.5 mg).

reactant | 5-ethynyl-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine | 62.4 mg | C(#C)C=1C(=NC(=NC1)NC1=CC(=CC=C1)F)NCCC | C15H15FN4
reactant | tert-butyl(2-azidoethyl)carbamate | C(C)(C)(C)OC(NCCN=[N+]=[N-])=O | C7H14N4O2
reactant | tert-butanol | 0.6 mL | C(C)(C)(C)O | C4H10O
reactant | sodium ascorbate | 9.15 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
catalyst | copper sulfate | 3.69 mg | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
solvent | water | 0.6 mL | O | H2O
product | tert-butyl (2-(4-(2-((3-fluorophenyl)amino)-4-(propylamino)pyrimidin-5-yl)-1H-1,2,3-triazol-1-yl)ethyl)carbamate | 32.5 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)C=1N=NN(C1)CCNC(OC(C)(C)C)=O | C22H29FN8O2
